US09023840B2
Step 5: 5-{3-(cyanomethyl)-3-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1 yl}-N-[(1S)-1-cyclopropylethyl]pyridine-2-carboxamide
2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl (91.1 mg, 0.146 mmol, Aldrich: Cat. #481084) was added to a mixture of {3-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile hydrochloride (0.445 g, 1.00 mmol), 5-bromo-N-[(1S)-1-cyclopropylethyl]pyridine-2-carboxamide (0.273 g, 1.01 mmol), and cesium carbonate (0.971 g, 2.98 mmol) in toluene (10 mL) under N2, followed by palladium acetate (32.2 mg, 0.143 mmol). The reaction mixture was stirred at 120° C. overnight. The reaction mixture was worked up with aqueous NaHCO3, and extracted with ethyl acetate (3×30 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column with ethyl acetate in hexane (0-70%) to afford the desired product (0.350 g, 58.6%). LCMS (M+H)+: m/z=597.3.

reactant | 2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl | 0.146 mmol, 91.1 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | {3-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile hydrochloride | 1.00 mmol, 0.445 g | Cl.C[Si](CCOCN1C=CC=2C1=NC=CC2C=2C=NN(C2)C2(CNC2)CC#N)(C)C
reactant | 5-bromo-N-[(1S)-1-cyclopropylethyl]pyridine-2-carboxamide | 1.01 mmol, 0.273 g | BrC=1C=CC(=NC1)C(=O)N[C@@H](C)C1CC1 | C11H13BrN2O
reactant | cesium carbonate | 2.98 mmol, 0.971 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.143 mmol, 32.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-{3-(cyanomethyl)-3-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1 yl}-N-[(1S)-1-cyclopropylethyl]pyridine-2-carboxamide | 0.350 g, 58.6% | C(#N)CC1(CN(C1)C=1C=CC(=NC1)C(=O)N[C@@H](C)C1CC1)N1N=CC(=C1)C1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C32H40N8O2Si
